US08791161B2
3-{[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]thio}-N,N-dimethylpropanamide
Following General Procedure H, B, the title compound was prepared from 2-amino-4-chloro-benzenethiol, N,N-dimethyl-acrylamide, and 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride.

reactant | 2-amino-4-chloro-benzenethiol | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | N,N-dimethyl-acrylamide | CN(C(C=C)=O)C | C5H9NO
reactant | 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
product | 3-{[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]thio}-N,N-dimethylpropanamide | ClC1=CC(=C(C=C1)SCCC(=O)N(C)C)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C18H17Cl2F3N2O3S2
